US09212182B2
1-(4-bromo-2-(1-cyanoethoxy)-5-fluorophenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide
This compound was made in an analogous fashion to 1-(4-bromo-2-(cyanomethoxy)-5-fluorophenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide via Method 166 except employing 2-bromopropanenitrile in the first step to alkylate the phenol. The yield of the desired product after HPLC purification was 5.3 mgs (14% yield). 1H NMR (500 MHz, DMSO-d6) □=ppm 1.36 (d, J=6.62 Hz, 2 H) 3.02-3.11 (m, 1 H) 3.17 (s, 1 H) 5.43-5.51 (m, 1 H) 6.16-6.22 (m, 1 H) 6.72 (d, J=9.73 Hz, 2 H) 7.67-7.78 (m, 2 H) 7.84-7.94 (m, 1 H) 8.15-8.24 (m, 2 H) 8.35 (br. s., 1 H). m/z (ESI) 530.9 (M−H).

reactant | 1-(4-bromo-2-(cyanomethoxy)-5-fluorophenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OCC#N | C20H12BrFN4O5S
reactant | 2-bromopropanenitrile | BrC(C#N)C | C3H4BrN
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 1-(4-bromo-2-(1-cyanoethoxy)-5-fluorophenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 14% yield | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC(C)C#N | C21H14BrFN4O5S
